US08022062B2
7-Chloro-6-[(N-methyl)-benzylamino]-2,3,4,5-tetrahydro-1H-benzo[d]azepine Succinate
Dissolve 6-benzylamino-3-tert-butoxycarbonyl-7-chloro-2,3,4,5-tetrahydro-1H-benzo[d]azepine (50 mg, 0.11 mmol) in acetonitrile (3 mL) and add a solution of formaldehyde in water (37%, 85 μL, 0.97 mmol) followed by sodium cyanoborohydride (16.5 mg, 0.26 mmol). Heat the solution to reflux 1 h, cool to ambient temperature, add glacial acetic acid (0.25 mL) and stir 72 h. Pour the mixture into water (100 mL) containing methanol (1 mL), extract with DCM (3×20 mL), wash the organic extracts with brine, dry over MgSO4, filter and concentrate in vacuo. Dissolve the resulting residue in DCM (5 mL), and add trifluoroacetic acid (2 mL). Stir for 2 h at ambient temperature and evaporate the solvent. Purify by SCX chromatography. Use a method similar to the General Procedure 2-1 to give the title compound (45 mg, 95%). MS (ES+) m/z: 301 (M+H)+.

reactant | 6-benzylamino-3-tert-butoxycarbonyl-7-chloro-2,3,4,5-tetrahydro-1H-benzo[d]azepine | 0.11 mmol, 50 mg | C(C1=CC=CC=C1)NC1=C(C=CC=2CCN(CCC21)C(=O)OC(C)(C)C)Cl | C22H27ClN2O2
reactant | formaldehyde | C=O | CH2O
reactant | sodium cyanoborohydride | 0.26 mmol, 16.5 mg | C(#N)[BH3-].[Na+]
reactant | acetic acid | 0.25 mL | C(C)(=O)O | C2H4O2
solvent | acetonitrile | 3 mL | C(C)#N | C2H3N
solvent | methanol | 1 mL | CO | CH4O
solvent | water | 100 mL | O | H2O
solvent | water | 0.97 mmol, 85 μL | O | H2O
product | 7-Chloro-6-[(N-methyl)-benzylamino]-2,3,4,5-tetrahydro-1H-benzo[d]azepine Succinate | 45 mg, 95% | C(CCC(=O)O)(=O)O.ClC1=C(C2=C(CCNCC2)C=C1)N(C)CC1=CC=CC=C1 | InChI=1S/C18H21ClN2.C4H6O4/c1-21(13-14-5-3-2-4-6-14)18-16-10-12-20-11-9-15(16)7-8-17(18)19;5-3(6)1-2-4(7)8/h2-8,20H,9-13H2,1H3;1-2H2,(H,5,6)(H,7,8)
